US06599917B1
b) 2-Methoxycarbonyl-3-(trimethylsilylethynyl)thiophene
A mixture of 2.07 g of 2-methoxycarbonyl-3-thienyl trifluoromethane sulfonate, 2.02 ml of trimethylsilylacetylene, 1.57 g of tetrakis (triphenylphosphine)palladium(0), 272 mg of cuprous iodide, 2.98 ml of triethylamine and 30 ml of N,N-dimethylformamide was stirred at 65° C. for 3 hours in a nitrogen atmosphere. Silica gel was added to the reaction solution, and the solvent was removed. The residue was subjected to silica gel column chromatography using 6% ethyl acetate/hexane, to give 1.78 g of the target compound.

reactant | 2-methoxycarbonyl-3-thienyl trifluoromethane sulfonate | 2.07 g | FC(S(=O)(=O)OC1=C(SC=C1)C(=O)OC)(F)F | C7H5F3O5S2
reactant | trimethylsilylacetylene | 2.02 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 2.98 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Methoxycarbonyl-3-(trimethylsilylethynyl)thiophene | 1.78 g | COC(=O)C=1SC=CC1C#C[Si](C)(C)C | C11H14O2SSi
